US06252082B1
Methyl 6-methyl-3-nitro-2-oxo-4-(thien-3-ylmethyl)-1,2-dihydropyridine-1-acetate
This compound is prepared from 5 g (13.4 mmol) of methyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate and 2.9 g (16.4 mmol) of 3-bromomethyl-thiophene according to the method described in 1.5. 3.5 g of product are obtained in the form of yellow crystals.

reactant | methyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate | 13.4 mmol, 5 g | CC1=CC(=C(C(N1CC(=O)OC)=O)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C10H9F3N2O8S
reactant | 3-bromomethyl-thiophene | 16.4 mmol, 2.9 g | BrCC1=CSC=C1 | C5H5BrS
product | Methyl 6-methyl-3-nitro-2-oxo-4-(thien-3-ylmethyl)-1,2-dihydropyridine-1-acetate | 3.5 g, Yield=84% | CC1=CC(=C(C(N1CC(=O)OC)=O)[N+](=O)[O-])CC1=CSC=C1 | C14H14N2O5S
